US05037841
3-(2-Methoxyphenoxy)methyl-pyrrolidine
5.0 g of 10% palladium on activated carbon were added to a solution of 5.0 g (17 mmol) of 1-benzyl-3-(2-methoxyphenoxy)methyl-pyrrolidine and 10.6 g (0.17 mol) of ammonium formate in 300 ml of methanol and the mixture was heated to reflux for 1 hour. After cooling, the solution was separated from the catalyst by filtration and the filtrate was freed from solvent in vacuo. The residue was rendered basic using 1N NaOH and the mixture was extracted using ether. After drying and evaporating, 1.5 g (43%) of the title compound were obtained as an oil.

reactant | 1-benzyl-3-(2-methoxyphenoxy)methyl-pyrrolidine | 17 mmol, 5.0 g | C(C1=CC=CC=C1)N1CC(CC1)COC1=C(C=CC=C1)OC | C19H23NO2
reactant | ammonium formate | 0.17 mol, 10.6 g | C(=O)[O-].[NH4+]
catalyst | palladium on activated carbon | 5.0 g | [Pd] | Pd
solvent | methanol | 300 ml | CO | CH4O
product | 3-(2-Methoxyphenoxy)methyl-pyrrolidine | 1.5 g, 43% | COC1=C(OCC2CNCC2)C=CC=C1 | C12H17NO2
